US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide (100 mg, 0.298 mmol), tert-butyl 3-methylpiperidin-3-ylcarbamate (192 mg, 0.895 mmol) and DIEA (0.052 mL, 0.298 mmol) in n-BuOH (3 mL) were stirred at 143° C. (bath) for 24 hours. The solvent was removed, and the residue was dissolved in ethyl acetate (20 mL), washed with water (10 mL), brine (10 mL), dried (sodium sulfate), and concentrated in vacuo. The residue obtained was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M+ column, 10-80% CH3CN/water gradient; 30 CV). The product isolated was dissolved in DCM (2 mL), and TFA (0.5 mL) was added. The mixture was stirred at room temperature for 1 hour. The solvent was then removed. The residue was dissolved in DCM (1 mL), and 2N HCl in ether (3 mL) was added. The solid formed was collected by filtration to give N-(4-(3-amino-3-methylpiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride (12.8 mg, 7.96% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 12.09 (s, 1H), 10.54 (s, 1H), 9.37 (s, 1H), 8.91 (d, 1H), 8.70 (m, 1H), 8.29 (s, 1H), 8.05 (s, 3H), 7.83 (m, 1H), 7.54 (s, 1H), 3.40 (m, 2H), 3.27 (m, 1H), 3.17 (m, 2H), 1.65 (m, 2H), 1.46 (m, 1H), 2.00 (s, 3H); LCMS (APCI+) m/z 429 (M+H)+.

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide | 0.298 mmol, 100 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)F | C13H8BrFN4O
reactant | tert-butyl 3-methylpiperidin-3-ylcarbamate | 0.895 mmol, 192 mg | CC1(CNCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | DIEA | 0.298 mmol, 0.052 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | N-(4-(3-amino-3-methylpiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide hydrochloride | 12.8 mg, 7.96% yield | Cl.NC1(CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=CN=CC=C2)=O)C | InChI=1S/C19H21BrN6O.ClH/c1-19(21)5-3-7-26(11-19)16-13(20)9-23-17-15(16)14(10-24-17)25-18(27)12-4-2-6-22-8-12;/h2,4,6,8-10H,3,5,7,11,21H2,1H3,(H,23,24)(H,25,27);1H
